!!!! CIURCUIT !!!!
Lmotor n2 n3 {parLmotor}
VmotorVAR n2 n1 PWL(0 0 1e-9 0)
*VmotorVAR n2 n1 DC 12
Rmotor n3 0 {parRmotor}
VpwmVAR1 n1 0 PWL(0 0 1e-9 0)
*VpwmVAR1 n1 0 DC 12
X1 0 n1 1PS79SB30
.param parRmotor=0.4
.param parLmotor=0.00001
.ic V(n1)=0
*
*1PS79SB30
*NXP Semiconductors
*Schottky barrier diode
*IFSM = 1A    @ tp = 8,3ms
*VF   = 600mV @ IF = 200mA
*Package pinning does not match Spice model pinning.
*Package: SOD523
*
*Package Pin 1 : Cathode 
*Package Pin 2 : Anode
* 
* 
*
*
*Simulator: PSPICE
*
*******************************************

.SUBCKT 1PS79SB30 1 2
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 9.5E+07
D1 1 2 1PS79SB30
*
.MODEL 1PS79SB30 D
+ IS = 8E-08
+ N = 1.012
+ BV = 45
+ IBV = 0.0001
+ RS = 0.8243
+ CJO = 2.515E-11
+ VJ = 0.4182
+ M = 0.4941
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS
*
*****MODEL2*****
